US06124287
By reacting 4,7,8-trichloroimidazo[1,2-a]quinoxaline example 22 with cyclohexylamine, following a procedure that is similar to that described in example 3, there is obtained 4-cyclohexylamino-7,8-dichloroimidazo[1,2-a] quinoxalin m.p. (DSC)=162.3° C.(onset); IR (KBr): 3332, 2929, 1587, 1550 cm-1 ; 1H-NMR (CDCl3): δ7.8 (2H,m), 7.7 (1H,s), 7.55 (1H,d, J=2 Hz), 6.2 (1H,d), 4.4 (1H,m), 2.3÷1.2 (10H,m); UV (EtOH): λmax =234, 274, 292, 304, 330, 345 nm. Elementary analysis for C16H16Cl2N4 (m.w. 344.25): calcd. C 55.82, H 4.98, N 16.28%; found C 55.83, H 5.00, N 16.31%.

reactant | 4,7,8-trichloroimidazo[1,2-a]quinoxaline | ClC=1C=2N(C3=CC(=C(C=C3N1)Cl)Cl)C=CN2 | C10H4Cl3N3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 4-cyclohexylamino-7,8-dichloroimidazo[1,2-a] quinoxalin | C1(CCCCC1)NC=1C=2N(C3=CC(=C(C=C3N1)Cl)Cl)C=CN2 | C16H16Cl2N4
